US08563582B2
tert-Butyl((1R,3S)-3-isopropyl-3-{[4-(trifluoromethyl)-3′,6′-dihydro-2,4′-bipyridin-1′(2′H)-yl]carbonyl}cyclopentyl)carbamate
To a solution of (1S,3R)-3-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopentanecarboxylic acid (0.288 g, 1.06 mmol) and 4-(trifluoromethyl)-1′,2′,3′,6′-tetrahydro-2,4′-bipyridine dihydrochloride (0.320 g, 1.06 mmol) in dry methylene chloride (11.5 mL) was added triethylamine (0.592 mL, 4.25 mmol) followed by benzotriazol-1-yloxytris(dimethylamino)phospsphonium hexafluorophosphate (0.517 g, 1.17 mmol). After being stirred at room temperature overnight, the brown reaction mixture was washed with NaHCO3 and brine, dried (MgSO4), filtered, and concentrated The residue was purified by column chromatography on silica gel (30:70 EtOAc/hexanes) to provide a light yellow solid product: 265 mg (52%). LC-MS calculated for C25H34F3N3O3: (M+H) 482; found 382.2 (M-Boc+1).

reactant | (1S,3R)-3-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopentanecarboxylic acid | 1.06 mmol, 0.288 g | C(C)(C)(C)OC(=O)N[C@H]1C[C@](CC1)(C(=O)O)C(C)C | C14H25NO4
reactant | 4-(trifluoromethyl)-1′,2′,3′,6′-tetrahydro-2,4′-bipyridine dihydrochloride | 1.06 mmol, 0.320 g | Cl.Cl.FC(C1=CC(=NC=C1)C=1CCNCC1)(F)F
reactant | triethylamine | 4.25 mmol, 0.592 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 11.5 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl((1R,3S)-3-isopropyl-3-{[4-(trifluoromethyl)-3′,6′-dihydro-2,4′-bipyridin-1′(2′H)-yl]carbonyl}cyclopentyl)carbamate | C(C)(C)(C)OC(N[C@H]1C[C@](CC1)(C(=O)N1CCC(=CC1)C1=NC=CC(=C1)C(F)(F)F)C(C)C)=O | C25H34F3N3O3
